US05273999
Preparation of rac-2-(3-Methoxy-3-oxopropyl)-3-[6-[(tetrahydro-2H-pyran-2-yl)oxy]hexyl]benzenehexanoic Acid Methyl Ester
Rac-(E)-6-[2-(3-methoxy-3-oxo-1-propenyl)-3-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexynyl]phenyl]-5-hexynoic acid methyl ester from the preceding example was catalytically hydrogenated over 10% palladium on carbon, in methanol, at room temperature and 1 atmosphere. The title compound was obtained, in 97% yield, as a pale-yellow oil.

reactant | Rac-(E)-6-[2-(3-methoxy-3-oxo-1-propenyl)-3-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexynyl]phenyl]-5-hexynoic acid methyl ester | COC(CCCC#CC1=C(C(=CC=C1)C#CCCCCOC1OCCCC1)\C=C\C(=O)OC)=O | C28H34O6
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | rac-2-(3-Methoxy-3-oxopropyl)-3-[6-[(tetrahydro-2H-pyran-2-yl)oxy]hexyl]benzenehexanoic Acid Methyl Ester | 97% yield | COC(CCCCCC1=C(C(=CC=C1)CCCCCCOC1OCCCC1)CCC(=O)OC)=O | C28H44O6
